US07183260B2
Part B: 2-(2-tert-Butyl phenylamino)-2-oxoacetic acid
A 3-L, 3-necked round-bottomed flask, equipped with a mechanic stirrer and a thermal probe (under nitrogen) was charged with Methyl 2-(2-tert-Butylphenylamino)-2-oxoacetate (154 g, 655 mmoles) and MeOH (1000 mL). The resulting mixture was stirred at a moderate speed at room temperature. A solution of 1N NaOH/MeOH (800 mL) was added dropwise to the reaction mixture via addition funnel. After 1 hour, agitation was stopped, and the suspension transferred to a filtration funnel and filtered to afford a white solid. This solid was then taken up in water (1200 mL) and the pH adjusted to 1.5–2 with addition of conc. HCl with stirring. After mixing for 1 hour, filtration and drying yielded the title compound as a white crystalline mass (127 g, 574 mmoles, 87.6%). TLC (silica F254, 3/1 v/v dichloromethane/MeOH, detection 254 nm) showed one spot and HPLC confirmed that. MP 110.9–112.6° C.; IR (KBr) 3405, 2973, 1688, 1548, 1300, 757 cm−1; 1H NMR (300 MHz, CDCl3): δ (ppm): 9.37 (br, 1H), 7.91 (dd, J=7.8 Hz, J′=1.8 Hz, 1H), 7.44 (dd, J=7.8 Hz, J′=1.8 Hz, 1H), 7.25 (m, 2H), 1.46 (s, 9H); 13C (300 MHz, CDCl3): δ (ppm): 160.87, 155.24, 141.18, 133.19, 126.92, 126.69, 126.63, 124.24, 34.21, 30.49.

reactant | Methyl 2-(2-tert-Butylphenylamino)-2-oxoacetate | 655 mmoles, 154 g | C(C)(C)(C)C1=C(C=CC=C1)NC(C(=O)OC)=O | C13H17NO3
reactant | MeOH | 1000 mL | CO | CH4O
reactant | NaOH MeOH | 1N, 800 mL | [OH-].[Na+].CO
reactant | HCl | Cl | ClH
solvent | water | 1200 mL | O | H2O
product | 2-(2-tert-Butyl phenylamino)-2-oxoacetic acid | C(C)(C)(C)C1=C(C=CC=C1)NC(C(=O)O)=O | C12H15NO3
